US06977267B2
3,5-Dichlorophenylisothiocyanate (5 g, 24.5 mmol) was added by portion to a suspension of the HCl salt of ethyl glycinate (3.4 g, 24.5 mmol) in a mixture of TEA (7.5 ml, 53.9 mmol) and dry DCM (40 ml) while cooling the flask in a water bath. After 60 h at RT, the solution was concentrated to dryness and partitioned between EtOAc and aqueous HCl. The organic layer was washed with water and concentrated. The obtained amorphous solid was washed with Et2O to yield 3-(3,5-dichlorophenyl)-2-thioxoimidazolidin-4-one as an orange solid (5.3 g). 1H NMR (CDCl3): 7.45 (1H, m), 7.25 (2H, m), 4.44 (2H, s).

reactant | 3,5-Dichlorophenylisothiocyanate | 24.5 mmol, 5 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
reactant | HCl | Cl | ClH
reactant | ethyl glycinate | 24.5 mmol, 3.4 g | NCC(=O)OCC | C4H9NO2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,5-dichlorophenyl)-2-thioxoimidazolidin-4-one | 5.3 g | ClC=1C=C(C=C(C1)Cl)N1C(NCC1=O)=S | C9H6Cl2N2OS
